US07629363B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2-furylmethyl)-6-methylpyridin-2(1H)-one
To a room temperature suspension of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (330.0 mg, 1.00 mmol)) and NaH (48.0 mg, 2.0 mmol) in THF (3.0 mL) was added 2-(chloromethyl)furan (461 mg, 3.97 mmol). The resulting suspension was stirred and heated to 68° C. for 9 hours until complete consumption of starting material by LCMS analysis. The reaction mixture was then diluted with ethyl acetate (400 mL), water washed (3×200 mL). The resulting organic extract was separated, Na2SO4 dried, and concentrated. The resulting dark residue was subjected to SiO2 chromatography with ethyl acetate/hexanes (4:6) to furnish a solid. 1H NMR (300 MHz, d4-MeOH) δ 7.62 (app q, J=8.4 Hz, 1H), 7.46 (s, 1H), 7.06 (app t, J=8.7 Hz, 2H), 6.51 (s, 1H), 6.41-6.37 (m, 2H), 5.37 (s, 2H), 5.32 (s, 2H), 2.61 (s, 3H); LC/MS C-18 column, tr32 2.63 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 410 (M+H). ES-HRMS m/z 410.0177 (M+H calcd for C18H15BrF2NO3 requires 410.0198).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 1.00 mmol, 330.0 mg | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | NaH | 2.0 mmol, 48.0 mg | [H-].[Na+]
reactant | 2-(chloromethyl)furan | 3.97 mmol, 461 mg | ClCC=1OC=CC1 | C5H5ClO
reactant | acetonitrile water | C(C)#N.O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2-furylmethyl)-6-methylpyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1OC=CC1)=O | C18H14BrF2NO3
